US04957867
4-Hydroxy-2-(6-methoxycarbonylhexyl)-2-cyclopentenone (24 g) was dissolved in chloroform (200 ml), followed by addition of acetyl chloride (7.9 g) thereto. Triethylamine [10.1 g) was dropwise added thereto while stirring at 0° to 10° C. After completion of the addition, stirring was continued at 25° C. for 8 hours. The reaction mixture was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 4-acetoxy-2-(6-methoxycarbonylhexyl)-2-cyclopentenone (27.6 g). Yield, 98%.

reactant | 4-Hydroxy-2-(6-methoxycarbonylhexyl)-2-cyclopentenone | 24 g | OC1C=C(C(C1)=O)CCCCCCC(=O)OC | C13H20O4
reactant | acetyl chloride | 7.9 g | C(C)(=O)Cl | C2H3ClO
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-acetoxy-2-(6-methoxycarbonylhexyl)-2-cyclopentenone | 27.6 g | C(C)(=O)OC1C=C(C(C1)=O)CCCCCCC(=O)OC | C15H22O5
